US08134001B2
In a manner similar to the method described in example 1d, 4-(2-formyl-4-iodo-phenoxy)-benzonitrile (1.9 g, 5.44 mmol) was reacted with 1,1,1,3,3,3-hexamethyldisilazane (1.13 mL, 5.44 mmol), n-butyllithium (2.5 M, 2.18 mL, 5.45 mmol), trimethylsilyl chloride (0.69 mL, 5.44 mmol), triethylamine (0.98 mL, 7.07 mmol) and acetyl chloride (0.66 mL, 7.07 mmol) to give crude 1-[2-(4-cyano-phenoxy)-5-iodo-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 4-(2-formyl-4-iodo-phenoxy)-benzonitrile | 5.44 mmol, 1.9 g | C(=O)C1=C(OC2=CC=C(C#N)C=C2)C=CC(=C1)I | C14H8INO2
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 5.44 mmol, 1.13 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 5.45 mmol, 2.5 M, 2.18 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 5.44 mmol, 0.69 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 7.07 mmol, 0.98 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 7.07 mmol, 0.66 mL | C(C)(=O)Cl | C2H3ClO
product | 1-[2-(4-cyano-phenoxy)-5-iodo-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | C(#N)C1=CC=C(OC2=C(C=C(C=C2)I)C=NC(=C)O[Si](C)(C)C)C=C1 | C19H19IN2O2Si
